US06596719B1
A mixture of 0.8 g of 4,6-dichloro-5-(p-tolyl)-pyrimidine and 1.68 g of 4-tert.-butylbenzene sulfonamide potassium salt in 20 ml of DMSO was stirred at room temperature for 24 h. The mixture was poured onto 200 ml of water and extracted twice with 100 ml of diethyl ether. The organic layers was extracted twice with 50 ml of water. The combined aqueous layers was acidified with conc. hydrochloric acid. The resulting fine suspension was extracted twice with ethyl acetate. The combined organic layers was dried over Na2SO4 and evaporated. The residue was dried under high vacuum to give 1.34 g 4-tert.-butyl-N-[6-chloro-5-(p-tolyl)-4-pyrimidinyl]-benzene sulfonamide as a white powder. LC-MS: tR=5.92 min, [M+1]+=416.20, [M−1]−=414.24.

reactant | 4,6-dichloro-5-(p-tolyl)-pyrimidine | 0.8 g | ClC1=NC=NC(=C1C1=CC=C(C=C1)C)Cl | C11H8Cl2N2
reactant | 4-tert.-butylbenzene sulfonamide potassium salt | 1.68 g | [K+].C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)[NH-]
reactant | water | 200 ml | O | H2O
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 4-tert.-butyl-N-[6-chloro-5-(p-tolyl)-4-pyrimidinyl]-benzene sulfonamide | 1.34 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)Cl | C21H22ClN3O2S
